US08791102B2
A flask was charged with benzyl (3R,5S)-1-(2-(1H-imidazol-5-yl)acetyl)-5-(4-(4-fluorophenoxy)phenylcarbamoyl)pyrrolidin-3-ylcarbamate (800 mg, 1.43 mmol), prepared as in Example 1, palladium on carbon (10%, 80 mg) and methanol (30 mL) and the mixture was placed under a hydrogen atmosphere at 40 psi (parr shaker). The reaction was allowed to proceed for 4 hours and the mixture was filtered and concentrated. Product was purified from the residue by reverse phase HPLC to give (2S,4R)-1-(2-(1H-imidazol-5-yl)acetyl)-4-amino-N-(4-(4-fluorophenoxy)phenyl)pyrrolidine-2-carboxamide (516 mg, 1.22 mmol, 85%) as an off-white solid.

reactant | benzyl (3R,5S)-1-(2-(1H-imidazol-5-yl)acetyl)-5-(4-(4-fluorophenoxy)phenylcarbamoyl)pyrrolidin-3-ylcarbamate | 1.43 mmol, 800 mg | N1C=NC=C1CC(=O)N1C[C@@H](C[C@H]1C(NC1=CC=C(C=C1)OC1=CC=C(C=C1)F)=O)NC(OCC1=CC=CC=C1)=O | C30H28FN5O5
catalyst | palladium on carbon | 80 mg | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | (2S,4R)-1-(2-(1H-imidazol-5-yl)acetyl)-4-amino-N-(4-(4-fluorophenoxy)phenyl)pyrrolidine-2-carboxamide | 1.22 mmol, 516 mg, 85% | N1C=NC=C1CC(=O)N1[C@@H](C[C@H](C1)N)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C22H22FN5O3
